US08067408B2
1,1-Dimethylethyl (2S)-4-[(2′-fluoro-5′-{[methyl({3-[(methyloxy) carbonyl]phenyl}carbonyl)amino]methyl}-3-biphenylyl)methyl]-2-methyl-1-piperazinecarboxylate
To a solution of methyl 3-{[[(3-bromo-4-fluorophenyl)methyl](methyl)amino]carbonyl}benzoate (0.20 g, 0.526 mmol) in p-dioxane/H2O (4.5/1.5 mL) was added {3-[((3S)-4-{[(1,1-dimethylethyl)oxy]carbonyl}-3-methyl-1-piperazinyl)methyl]-phenyl}boronic acid (0.264 g, 0.789 mmol), Pd(PPh3)4 (0.030 g, 0.026 mmol), and K2CO3 (0.29 mL, 2.1 mmol). The mixture was heated with z microwave at 130° C. for 15 min. The mixture was then filtered, and the filtrate concentrated and purified by CombiFlash chromatograph to afford the title compound 0.215 g (69%). LC-MS m/z 590 (M+H)+.

reactant | methyl 3-{[[(3-bromo-4-fluorophenyl)methyl](methyl)amino]carbonyl}benzoate | 0.526 mmol, 0.20 g | BrC=1C=C(C=CC1F)CN(C(=O)C=1C=C(C(=O)OC)C=CC1)C | C17H15BrFNO3
reactant | {3-[((3S)-4-{[(1,1-dimethylethyl)oxy]carbonyl}-3-methyl-1-piperazinyl)methyl]-phenyl}boronic acid | 0.789 mmol, 0.264 g | CC(C)(C)OC(=O)N1[C@H](CN(CC1)CC=1C=C(C=CC1)B(O)O)C | C17H27BN2O4
reactant | K2CO3 | 2.1 mmol, 0.29 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | p-dioxane H2O | 1.5 mL | O1CCOCC1.O
catalyst | Pd(PPh3)4 | 0.026 mmol, 0.030 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1,1-Dimethylethyl (2S)-4-[(2′-fluoro-5′-{[methyl({3-[(methyloxy) carbonyl]phenyl}carbonyl)amino]methyl}-3-biphenylyl)methyl]-2-methyl-1-piperazinecarboxylate | 0.215 g, 69% | FC1=C(C=C(C=C1)CN(C(=O)C1=CC(=CC=C1)C(=O)OC)C)C1=CC(=CC=C1)CN1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C | C34H40FN3O5
